US07816354B2
2-Azido-1-(3-bromo-phenyl)-ethanol
[2-Bromo-1-(3-bromo-phenyl)-ethoxy]-trimethyl-silane (5.85 g, 16.6 mmol and tetrabutyl sodium iodide (613 mg, 1.66 mmol) were dissolved in DMSO and sodium azide (2.16 g, 33.2 mmol) was slowly added. The mixture stirred at 80° C. for 4 hours and then at room temperature for 18 hours. The mixture was quenched with saturated sodium bicarbonate and extracted with ethyl acetate. The organics were washed with water brine and 1M HCl, then again with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel, eluting with 5-10% ethyl acetate in hexanes. The title compound was isolated as a yellow oil (3.38 g, 83%). 1H NMR (300 MHz, CDCl3): 7.57 (s, 1H), 7.48 (d, 1H), 7.31-7.29 (m, 2H), 4.87 (m, 1H), 3.49 (d, 2H), 2.45 (d, 1H).

reactant | [2-Bromo-1-(3-bromo-phenyl)-ethoxy]-trimethyl-silane | BrCC(O[Si](C)(C)C)C1=CC(=CC=C1)Br | C11H16Br2OSi
reactant | sodium azide | 33.2 mmol, 2.16 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-Azido-1-(3-bromo-phenyl)-ethanol | N(=[N+]=[N-])CC(O)C1=CC(=CC=C1)Br | C8H8BrN3O
